US04558135
A solution of 40 g (0.24 mol) of 2-mercaptobenzothiazole, 22.4 mg (0.1×10-3 mol) of Mn(OAc)2. 4H2O and 4.08 g (0.24 mol) of ammonia in 120 g of methanol is in the manner and reaction equipment described in Example 1 reacted with oxygen at an oxygen pressure of 4 bar and a reaction temperature of 55° C. After a reaction time of 3 hours, one obtains dibenzo thiazyl disulfide at a yield of 35.9 g, corresponding to 90.3% of theoretical. The conversion rate is determined to be 92.1%.

reactant | 2-mercaptobenzothiazole | 0.24 mol, 40 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | ammonia | 0.24 mol, 4.08 g | N | H3N
reactant | oxygen | O=O | O2
solvent | methanol | 120 g | CO | CH4O
product | dibenzo thiazyl disulfide | C1=CC=C2C(=C1)N=C(S2)SSC3=NC4=CC=CC=C4S3 | C14H8N2S4
